***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD17559Q5
* Date: 12/04/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS374 - November 2012
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD17559Q5   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.2151E-09	)
+(	0.5	2.2169E-09	)
+(	1	2.2144E-09	)
+(	1.5	2.2095E-09	)
+(	2	2.2051E-09	)
+(	2.5	2.2022E-09	)
+(	3	2.199E-09	)
+(	3.5	2.1968E-09	)
+(	4	2.194E-09	)
+(	4.5	2.193E-09	)
+(	5	2.1919E-09	)
+(	5.5	2.1915E-09	)
+(	6	2.191E-09	)
+(	6.5	2.1905E-09	)
+(	7	2.191E-09	)
+(	7.5	2.1936E-09	)
+(	8	2.1955E-09	)
+(	8.5	2.1976E-09	)
+(	9	2.21452E-09	)
+(	9.5	2.26193E-09	)
+(	10	2.26038E-09	)
+(	10.5	2.25856E-09	)
+(	11	2.25853E-09	)
+(	11.5	2.25737E-09	)
+(	12	2.2571E-09	)
+(	12.5	2.25575E-09	)
+(	13	2.25527E-09	)
+(	13.5	2.25478E-09	)
+(	14	2.25425E-09	)
+(	14.5	2.25369E-09	)
+(	15	2.2541E-09	)
+(	15.5	2.25349E-09	)
+(	16	2.25285E-09	)
+(	16.5	2.25219E-09	)
+(	17	2.25152E-09	)
+(	17.5	2.25183E-09	)
+(	18	2.25112E-09	)
+(	18.5	2.25041E-09	)
+(	19	2.24969E-09	)
+(	19.5	2.24995E-09	)
+(	20	2.24921E-09	)
+(	20.5	2.24845E-09	)
+(	21	2.24769E-09	)
+(	21.5	2.24791E-09	)
+(	22	2.24713E-09	)
+(	22.5	2.24634E-09	)
+(	23	2.24555E-09	)
+(	23.5	2.24574E-09	)
+(	24	2.24494E-09	)
+(	24.5	2.24413E-09	)
+(	25	2.24331E-09	)
+(	25.5	2.24347E-09	)
+(	26	2.24264E-09	)
+(	26.5	2.2418E-09	)
+(	27	2.24095E-09	)
+(	27.5	2.2411E-09	)
+(	28	2.24024E-09	)
+(	28.5	2.23937E-09	)
+(	29	2.2395E-09	)
+(	29.5	2.23862E-09	)
+(	30	2.23773E-09	)
+(	30.5	2.23684E-09	)
+(	31	2.23695E-09	)
+(	31.5	2.23605E-09	)
+(	32	2.23514E-09	)
+(	32.5	2.23424E-09	)
+(	33	2.23433E-09	)
+(	33.5	2.23341E-09	)
+(	34	2.23249E-09	)
+(	34.5	2.23257E-09	)
+(	35	2.23164E-09	)
+(	35.5	2.23071E-09	)
+(	36	2.22977E-09	)
+(	36.5	2.22983E-09	)
+(	37	2.22889E-09	)
+(	37.5	2.22795E-09	)
+(	38	2.228E-09	)
+(	38.5	2.22704E-09	)
+(	39	2.22608E-09	)
+(	39.5	2.22513E-09	)
+(	40	2.22517E-09	)
+(	40.5	2.22421E-09	)
+(	41	2.22324E-09	)
+(	41.5	2.22326E-09	)
+(	42	2.22229E-09	)
+(	42.5	2.22132E-09	)
+(	43	2.22034E-09	)
+(	43.5	2.22036E-09	)
+(	44	2.21939E-09	)
+(	44.5	2.2184E-09	)
+(	45	2.21742E-09	)
+(	45.5	2.21744E-09	)
+(	46	2.21645E-09	)
+(	46.5	2.21546E-09	)
+(	47	2.21547E-09	)
+(	47.5	2.21447E-09	)
+(	48	2.21348E-09	)
+(	48.5	2.21248E-09	)
+(	49	2.21248E-09	)
+(	49.5	2.21149E-09	)
+(	50	2.21048E-09	)
+(	50.5	2.20948E-09	)
+(	51	2.20948E-09	)
+(	51.5	2.20848E-09	)
+(	52	2.20747E-09	)
+(	52.5	2.20746E-09	)
+(	53	2.20645E-09	)
+(	53.5	2.20544E-09	)
+(	54	2.20443E-09	)
+(	54.5	2.20442E-09	)
+(	55	2.20341E-09	)
+(	55.5	2.2024E-09	)
+(	56	2.20139E-09	)
+(	56.5	2.20138E-09	)
+(	57	2.20037E-09	)
+(	57.5	2.19937E-09	)
+(	58	2.19837E-09	)
+(	58.5	2.19737E-09	)
+(	59	2.19737E-09	)
+(	59.5	2.19636E-09	)
+(	60	2.19536E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	7.836E-10	)
+	(	0.5	6.747E-10	)
+	(	1	5.748E-10	)
+	(	1.5	5.138E-10	)
+	(	2	4.708E-10	)
+	(	2.5	4.37E-10	)
+	(	3	4.095E-10	)
+	(	3.5	3.865E-10	)
+	(	4	3.669E-10	)
+	(	4.5	3.496E-10	)
+	(	5	3.343E-10	)
+	(	5.5	3.203E-10	)
+	(	6	3.069E-10	)
+	(	6.5	2.935E-10	)
+	(	7	2.795E-10	)
+	(	7.5	2.642E-10	)
+	(	8	2.473E-10	)
+	(	8.5	2.287E-10	)
+	(	9	2.092E-10	)
+	(	9.5	1.904E-10	)
+	(	10	1.733E-10	)
+	(	10.5	1.585E-10	)
+	(	11	1.458E-10	)
+	(	11.5	1.349E-10	)
+	(	12	1.253E-10	)
+	(	12.5	1.17E-10	)
+	(	13	1.097E-10	)
+	(	13.5	1.031E-10	)
+	(	14	9.722E-11	)
+	(	14.5	9.194E-11	)
+	(	15	8.716E-11	)
+	(	15.5	8.287E-11	)
+	(	16	7.899E-11	)
+	(	16.5	7.554E-11	)
+	(	17	7.245E-11	)
+	(	17.5	6.974E-11	)
+	(	18	6.739E-11	)
+	(	18.5	6.538E-11	)
+	(	19	6.37E-11	)
+	(	19.5	6.232E-11	)
+	(	20	6.122E-11	)
+	(	20.5	6.037E-11	)
+	(	21	5.97E-11	)
+	(	21.5	5.922E-11	)
+	(	22	5.889E-11	)
+	(	22.5	5.867E-11	)
+	(	23	5.853E-11	)
+	(	23.5	5.848E-11	)
+	(	24	5.849E-11	)
+	(	24.5	5.855E-11	)
+	(	25	5.865E-11	)
+	(	25.5	5.878E-11	)
+	(	26	5.895E-11	)
+	(	26.5	5.913E-11	)
+	(	27	5.933E-11	)
+	(	27.5	5.956E-11	)
+	(	28	5.979E-11	)
+	(	28.5	6.003E-11	)
+	(	29	6.028E-11	)
+	(	29.5	6.054E-11	)
+	(	30	6.08E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	9.2264E-09	)
+	(	0.5	8.3463E-09	)
+	(	1	7.2902E-09	)
+	(	1.5	6.6022E-09	)
+	(	2	6.0922E-09	)
+	(	2.5	5.677E-09	)
+	(	3	5.3305E-09	)
+	(	3.5	5.0325E-09	)
+	(	4	4.7741E-09	)
+	(	4.5	4.5464E-09	)
+	(	5	4.3427E-09	)
+	(	5.5	4.1547E-09	)
+	(	6	3.9821E-09	)
+	(	6.5	3.8185E-09	)
+	(	7	3.6645E-09	)
+	(	7.5	3.5158E-09	)
+	(	8	3.3677E-09	)
+	(	8.5	3.2233E-09	)
+	(	9	3.0798E-09	)
+	(	9.5	2.9366E-09	)
+	(	10	2.7977E-09	)
+	(	10.5	2.6655E-09	)
+	(	11	2.5432E-09	)
+	(	11.5	2.4291E-09	)
+	(	12	2.3217E-09	)
+	(	12.5	2.222E-09	)
+	(	13	2.1283E-09	)
+	(	13.5	2.0399E-09	)
+	(	14	1.95578E-09	)
+	(	14.5	1.87606E-09	)
+	(	15	1.80084E-09	)
+	(	15.5	1.72913E-09	)
+	(	16	1.66201E-09	)
+	(	16.5	1.59846E-09	)
+	(	17	1.53955E-09	)
+	(	17.5	1.48426E-09	)
+	(	18	1.43261E-09	)
+	(	18.5	1.38662E-09	)
+	(	19	1.3433E-09	)
+	(	19.5	1.30568E-09	)
+	(	20	1.27178E-09	)
+	(	20.5	1.24163E-09	)
+	(	21	1.2153E-09	)
+	(	21.5	1.19278E-09	)
+	(	22	1.17311E-09	)
+	(	22.5	1.15533E-09	)
+	(	23	1.13947E-09	)
+	(	23.5	1.12552E-09	)
+	(	24	1.11351E-09	)
+	(	24.5	1.10245E-09	)
+	(	25	1.09235E-09	)
+	(	25.5	1.08322E-09	)
+	(	26	1.07505E-09	)
+	(	26.5	1.06687E-09	)
+	(	27	1.05967E-09	)
+	(	27.5	1.05244E-09	)
+	(	28	1.04621E-09	)
+	(	28.5	1.04097E-09	)
+	(	29	1.03472E-09	)
+	(	29.5	1.02946E-09	)
+	(	30	1.0242E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT CSD17559Q5   1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    6.00e-3  
 .PARAM  ptrc2    {20.00e-6*1}
 .PARAM  pwidthP  11.14416667
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
cgs	5	8	0.20e-9
xcgd	5	10	1	3	cgd
xcds	8	10	1	3	cds
DBD   8  7	 DBD	{1.9159025793696275071633237822352}
CBD0  8  7   3e-12
RBD0  8  7   1e10
*CGD0  5  7	 100E-12
CGS0  5  8	 0.5e-12
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.1u PS={perimP} PD={perimP}
*DDx  20  10  DDx
*DDG1  10	101	DD
*DDG2  5	101	DD
* Note:  gate oxide capacitance included in NMOS below
LGG   2  5	 2.1e-9
RGG   5 11	 1.15
RSB  12  9	 RTEMP 0.02e-3
RSS   9  8 	 RTEMP 0.05e-3
RSP   8  6 	 0.11e-3
LSS   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP {0.60e-3-0.022e-3}
RDP   4  7	 0.11e-3
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 3.0e-9        UB     = 0.0e-19      A0     = 0.9
+ AGS    = 0.0           A1     = 0.0          A2     = 0.9
+ LINT   = 0.055e-6      VOFF   = -0.55        NFACTOR= 1.7
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 5.00          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 260.00e-12		CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.85
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 00.00e-9
+ UB1    = -0.0e-17      
* PROCESS PARAMETERS
+ TOX    = 3.00e-8       XJ     = 3e-7          NCH    = 1.375e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 25            VTO    = -1.0          IS     = 6.0e-14
+ TOX    = 3.0e-8        NSUB   = 2.0e17		GAMMA  = 0
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
*******************************************************************
.MODEL DBD D (CJO=1e-18 VJ=1.0 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=31
+ IS=11.0e-12 N=1.045 RS=0.30e-3 TRS1=0.0e-3)
.MODEL DD  D (CJO=1.55e-09 VJ=0.9 M=0.9 IS=1e-13 RS=0.1 TNOM=25)
.MODEL DDx D (CJO=0.0001e-09 VJ=0.9 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD17559Q5   
*$